US04871757
71.7 g (0.37 mol) of 2-chloro-6-fluorobenzoyl chloride are slowly added dropwise to a solution, cooled to 5° C., of 65.4 g (0.37 mol) of o-trifluoromethylphenylhydrazine in 200 ml of pyridine in such a manner that the temperature of the reaction mixture does not exceed 5° C. The mixture is stirred at room temperature for a further 90 minutes and subsequently treated with 400 ml of water. The aqueous phase is extracted three times with 150 ml of diethyl ether each time and the combined organic phases are washed in sequence with 2N sodium hydroxide solution and concentrated sodium chloride solution. The organic phase is then dried over anhydrous sodium sulfate and evaporated under reduced pressure, the crude product being evaporated twice with a small amount of toluene in order to remove excess pyridine. After recrystallization from methylene chloride/n-hexane there is obtained N1 -(α,α,α-trifluoro-o-tolyl)-2-chloro-6-fluorobenzhydrazide, m.p. 147°-148° C.; mass spectrum: 332(19), 157(100).

reactant | 2-chloro-6-fluorobenzoyl chloride | 0.37 mol, 71.7 g | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
reactant | o-trifluoromethylphenylhydrazine | 0.37 mol, 65.4 g | FC(C1=C(C=CC=C1)NN)(F)F | C7H7F3N2
reactant | water | 400 ml | O | H2O
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | N1 -(α,α,α-trifluoro-o-tolyl)-2-chloro-6-fluorobenzhydrazide | FC(C1=C(C=CC=C1)N(N)C(C1=C(C=CC=C1F)Cl)=O)(F)F | C14H9ClF4N2O
